US07544812B2
2-Methyl-3-(4-{2-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethoxy}-phenyl)-2-phenoxy-propionic acid ethyl ester:
A slurry of 2-Methyl-3-(4-{2-[2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethoxy}-phenyl)-2-phenoxy-propionic acid ethyl ester (0.544 g, 0.953 mmol) and sodium hydride (0.042 g, 1.05 mmol, 60% dispersion on mineral oil) in DMF (10 mL) is stirred for 1 h, then cooled to 0° C. Iodomethane (0.60 mL, 9.53 mmol, d=2.28) is added, then the reaction mixture is stirred 18 h at ambient temperature and diluted with ethyl acetate. The organic layer is washed, dried, concentrated, and purified by flash chromatography to provide the title compound. 1H NMR (400 MHz, CDCl3): δ 7.56 (d, 2H, J=8.0 Hz), 7.37 (d, 2H, J=8.0 Hz), 7.26-7.19 (m, 2H), 7.15 (d, 2H, J=8.9 Hz), 6.97 (t, 1H, J=8.0 Hz), 6.82 (d, 2H, J=8.0 Hz), 6.74 (d, 2H, J=8.9 Hz), 4.46, 4.38 (ABq, 2H, J=15.1 Hz), 4.20 (q, 2H, J=7.1 Hz), 3.97 (t, 2H, J=7.1 Hz), 3.67-3.59 (m, 1H), 3.78 (t, 1H, J=8.9 Hz), 3.26, 3.10 (ABq, 2H, J=14.2 Hz), 2.99 (t, 1H, J=8.9 Hz), 2.85 (s, 3H), 2.28-2.21 (m, 1H), 1.93-1.84 (m, 1H), 1.39 (s, 3H), 1.21 (t, 3H, J=7.1 Hz). MS [EI+]. 585 (M+H)+. Rf=0.35 in 50% acetone in hexanes.

reactant | 2-Methyl-3-(4-{2-[2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethoxy}-phenyl)-2-phenoxy-propionic acid ethyl ester | 0.953 mmol, 0.544 g | C(C)OC(C(CC1=CC=C(C=C1)OCCC1NC(N(C1)CC1=CC=C(C=C1)C(F)(F)F)=O)(OC1=CC=CC=C1)C)=O | C31H33F3N2O5
reactant | sodium hydride | 1.05 mmol, 0.042 g | [H-].[Na+]
reactant | Iodomethane | 9.53 mmol, 0.60 mL | IC | CH3I
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Methyl-3-(4-{2-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethoxy}-phenyl)-2-phenoxy-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)OCCC1N(C(N(C1)CC1=CC=C(C=C1)C(F)(F)F)=O)C)(OC1=CC=CC=C1)C)=O | C32H35F3N2O5
